US07700637B2
A mixture of methyl 4-methoxysalicylate (176 mg, 0.97 mmol), the title C compound, 4-[2-(4-bromomethyl-phenoxy)-ethyl]-5-methyl-2-phenyl-oxazole (300 mg, 0.81 mmol) and potassium carbonate (334 mg, 2.42 mmol) in DMF (10 mL) is stirred at RT overnight. The mixture is partitioned between EtOAc and water. The organic phase is washed with brine, dried over magnesium sulfate, and concentrated. The residue is chromatographed on silica gel using 15% EtOAc in hexane as the eluent to give 4-methoxy-2-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzyloxy}-benzoic acid methyl ester.

reactant | methyl 4-methoxysalicylate | 0.97 mmol, 176 mg | COC=1C=C(C(C(=O)OC)=CC1)O | C9H10O4
reactant | 4-[2-(4-bromomethyl-phenoxy)-ethyl]-5-methyl-2-phenyl-oxazole | 0.81 mmol, 300 mg | BrCC1=CC=C(OCCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C19H18BrNO2
reactant | potassium carbonate | 2.42 mmol, 334 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-methoxy-2-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzyloxy}-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)OC)OCC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)=O | C28H27NO6
